US04118487
B. (Biphenyl-4-yl)-imidazol-1-yl-phenylmethane
13.6 g (0.2 mol) of imidazole are dissolved in 150 ml of acetonitrile and 3.5 ml of thionyl chloride are added at 10° C. 13 g (0.05 mol) of (biphenyl-4-yl)-phenyl-carbinol are added to the solution of thionyl-bis-imidazole thus obtained. After standing for 15 hours at room temperature, the solvent is removed by distillation in vacuo. The residue is taken up in chloroform and the solution is washed with water. The organic phase is collected, dried over sodium sulfate and filtered and the solvent is distiller off in vacuo. The oily residue is dissolved in ethyl acetate and freed from insoluble, resinous constituents by filtration. The solvent is again distilled off in vacuo and the residue is purified by recrystallization from acetonitrile. 8.7 g (56% of theory) of (biphenyl-4-yl)-imidazol-1-yl-phenylmethane [alternatively named as diphenyl-imidazolyl-(1)-phenyl-methane or as 1-(α-biphenyl-4-ylbenzyl)imidazole] of melting point 142° C. are obtained.

reactant | imidazole | 0.2 mol, 13.6 g | N1C=NC=C1 | C3H4N2
reactant | thionyl chloride | 3.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | (biphenyl-4-yl)-phenyl-carbinol | 0.05 mol, 13 g | C1(=CC=C(C=C1)C(O)C1=CC=CC=C1)C1=CC=CC=C1 | C19H16O
reactant | thionyl-bis-imidazole | S(=O)(C=1NC=CN1)C=1NC=CN1 | C6H6N4OS
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | (Biphenyl-4-yl)-imidazol-1-yl-phenylmethane | C1(=CC=C(C=C1)C(C1=CC=CC=C1)N1C=NC=C1)C1=CC=CC=C1 | C22H18N2
